US06248740B1
Production of N-(3,6-dichloroimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester
0.86 g of N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester was suspended in 30 ml of ethyl acetate; 1.2 g of N-chlorosuccinimide was added, followed by thermal refluxing for 20 hours. After cooling, 30 ml of tetrahydrofuran was added; the mixture was washed with an aqueous solution of sodium thiosulfate and saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; ethyl ether was added to the residue; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 0.552 g of the title compound.

reactant | N-(6-chloroimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester | 0.86 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)Cl)C1)=O | C11H11ClN4O3
reactant | N-chlorosuccinimide | 1.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-(3,6-dichloroimidazo[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester | 0.552 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)Cl)C1Cl)=O | C11H10Cl2N4O3
